US06888032B2
3,5-Dimethyl-benzonitrile
An oven dried screw cap test tube was charged with NaCN (140 mg, 2.857 mmol) dried KI (79 mg, 0.476 mmol, 20 mol %) and CuI (45 mg, 0.236 mmol, 10 mol %), evacuated and backfilled with argon three times. Anhydrous toluene (1550 μl), N,N′-dimethylethylenediamine (255 μl, 2.395 mmol), 1-Bromo-3,5-dimethyl-benzene (255 μl, 1.877 mmol), and benzyl alcohol (155 μl, 1.498 mmol) were added under argon. The tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 12 h. The resulting yellow color suspension was cooled to room temperature, 2 mL of ethyl acetate, 250 μl of n-dodecane as internal standard, 1 mL of ammonium hydroxide 30% and 1 mL of water were added. The mixture was stirred at 25° C. for 10 min then the organic layer was washed with 1 mL of water and dried over MgSO4. The GC analysis showed a conversion of 91% with a yield of the title product, calculated vs internal standard, of 88%.

reactant | NaCN | 2.857 mmol, 140 mg | [C-]#N.[Na+]
reactant | N,N′-dimethylethylenediamine | 2.395 mmol, 255 μl | CNCCNC | C4H12N2
reactant | 1-Bromo-3,5-dimethyl-benzene | 1.877 mmol, 255 μl | BrC1=CC(=CC(=C1)C)C | C8H9Br
reactant | benzyl alcohol | 1.498 mmol, 155 μl | C(C1=CC=CC=C1)O | C7H8O
reactant | n-dodecane | 250 μl | CCCCCCCCCCCC | C12H26
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
catalyst | CuI | 0.236 mmol, 45 mg | [Cu]I
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1550 μl | C1(=CC=CC=C1)C | C7H8
product | 3,5-Dimethyl-benzonitrile | CC=1C=C(C#N)C=C(C1)C | C9H9N
